US03953525
When the above reaction is carried out using in place of 2-methyl-2-(4-[1-hydroxy-2,2-dimethylpropyl]-phenyl)1,3-dioxolane, and equivalent amount of 2-methyl-2-(2-chloro-4-[1-hydroxy-2,2-dimethylpropyl]-phenyl)-1,3-dioxolane, or 2-ethyl-2 -(4-[1-hydroxy-2,2-dimethylpropyl]-phenyl)-1,3-dioxolane, there is obtained 1-(2-chloro-p-acetophenyl)-2,2-dimethylpropanol or 1-(p-propionylphenyl)-2,2-dimethylpropanol.

reactant | 2-methyl-2-(4-[1-hydroxy-2,2-dimethylpropyl]-phenyl)1,3-dioxolane | CC1(OCCO1)C1=CC=C(C=C1)C(C(C)(C)C)O | C15H22O3
reactant | 2-methyl-2-(2-chloro-4-[1-hydroxy-2,2-dimethylpropyl]-phenyl)-1,3-dioxolane | CC1(OCCO1)C1=C(C=C(C=C1)C(C(C)(C)C)O)Cl | C15H21ClO3
reactant | 2-ethyl-2 -(4-[1-hydroxy-2,2-dimethylpropyl]-phenyl)-1,3-dioxolane | C(C)C1(OCCO1)C1=CC=C(C=C1)C(C(C)(C)C)O | C16H24O3
product | 1-(p-propionylphenyl)-2,2-dimethylpropanol | C(CC)(=O)C1=CC=C(C=C1)C(C(C)(C)C)O | C14H20O2
